US08729303B2
The reaction of Step 2 is specifically performed as follows. The Pd/C of 5-15%, and preferably 10%, relative to the mass of the substrate, is added as the catalyst to the 2,2′,6,6′-tetranitrobiphenyl. The hydrogen gas of 5-20 atm, and preferably 10 atm, is added to the autoclave. Upon completion of the reaction, the solid is filtered off, and the filtrate is concentrated, to afford the 2,2′,6,6′-tetraminobiphenyl.

reactant | 2,2′,6,6′-tetranitrobiphenyl | [N+](=O)([O-])C1=C(C(=CC=C1)[N+](=O)[O-])C1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-] | C12H6N4O8
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
product | 2,2′,6,6′-tetraminobiphenyl | NC1=C(C(=CC=C1)N)C1=C(C=CC=C1N)N | C12H14N4
